US04826869
1-Butyl-2-(3'-ureidobenzyl)pyrrole
To a stirred suspension of 5 g (130 mmol) of lithium aluminum hydride in 500 ml of anhydrous tetrahydrofuran was added dropwise, at room temperature, a solution of 16 g (66 mmol) of 1-butyl-2-(3'-aminobenzoyl)pyrrole in 100 ml of anhydrous tetrahydrofuran. The reaction mixture was refluxed for 30 minutes, cooled to 0° C. and the excess reagent destroyed by carefully adding ethyl acetate, saturated sodium sulfate solution and solid anhydrous sodium sulfate. The insoluble material was separated by filtration and the filtrate evaporated in vacuo. The unstable crude alcohol thus obtained, 1-butyl-2-(3'-amino-α-hydroxybenzyl)pyrrole (16 g, 66 mmol), was immediately dissolved in 250 ml of methanol, cooled to 0° C. and treated with 66 ml of glacial acetic acid and 10.1 g (160 mmol) of sodium cyanoborohydride. The reaction mixture was stirred at room temperature for 11/2 hours, poured into 1000 ml of saturated sodium carbonate solution and the product extracted with ethyl acetate (3×500 ml). The combined extracts were washed with water (2×300 ml) dried and evaporated in vacuo. The residue was purified by column chromatography on 750 g of silica gel using hexane-ethyl acetate (80:20) as eluant, thus obtaining 7.6 g (50%) of the title compound, 1-butyl-2-(3'-aminobenzyl)pyrrole, as an oil.

reactant | lithium aluminum hydride | 130 mmol, 5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-butyl-2-(3'-aminobenzoyl)pyrrole | 66 mmol, 16 g | C(CCC)N1C(=CC=C1)C(C1=CC(=CC=C1)N)=O | C15H18N2O
reactant | 1-butyl-2-(3'-amino-α-hydroxybenzyl)pyrrole | 66 mmol, 16 g | C(CCC)N1C(=CC=C1)C(C1=CC(=CC=C1)N)O | C15H20N2O
reactant | sodium cyanoborohydride | 160 mmol, 10.1 g | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | 1000 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 250 ml | CO | CH4O
solvent | acetic acid | 66 ml | C(C)(=O)O | C2H4O2
product | 1-Butyl-2-(3'-ureidobenzyl)pyrrole | 7.6 g, 50% | C(CCC)N1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C16H21N3O
